US05925767
4. 8-Methyl-2,3-dihydrobenz-1, 4-oxathiine-7-carboxylic acid
4.0 g (0.0168 mol) of ethyl 8-methyl-2,3-dihydrobenz-1,4-oxathiine-7-carboxylate together with 1.0 g (0.0252 mol) of sodium hydroxide are refluxed in 40 ml of methanol/water. The mixture is stirred for 2 hours at this temperature, and the solvent is subsequently distilled off. The residue is taken up in water. The mixture is extracted using ether, and the aqueous phase is then acidified using 2 N hydrochloric acid. The product of value precipitates and is filtered off with suction and washed with a small amount of water. The product is dried in a vacuum drying oven at 40° C.

reactant | ethyl 8-methyl-2,3-dihydrobenz-1,4-oxathiine-7-carboxylate | 0.0168 mol, 4.0 g | CC1=C(C=CC=2SCCOC21)C(=O)OCC | C12H14O3S
reactant | sodium hydroxide | 0.0252 mol, 1.0 g | [OH-].[Na+]
solvent | methanol water | 40 ml | CO.O
product | 8-Methyl-2,3-dihydrobenz-1, 4-oxathiine-7-carboxylic acid | CC1=C(C=CC=2SCCOC21)C(=O)O | C10H10O3S
